US04725617
Nα -[1(S)-ethoxycarbonyl-3-phenyl-3-oxo-propyl]-Nε -t-butoxycarbonyl-(S)-lysyl-(S)-proline-t-butylester
8.0 g (20 mmoles) of Nε -t-butoxycarbonyl-(S)-lysyl-(S)-proline-t-butylester are dissolved in 100 ml of diethyl ether and 4.48 g (22 mmoles) of E-ethyl-3-benzoyl-acrylate are added to the solution. The reaction mixture is stirred at room temperature for 5 hours. After evaporation of the solvent the title product is isolated on a Kieselgel column in the form of transparent oil. Rf =0.49 i(in a 7:3 eluent mixture of ethyl acetate and ether).

reactant | Nε -t-butoxycarbonyl-(S)-lysyl-(S)-proline-t-butylester | 20 mmoles, 8.0 g | C(C)(C)(C)OC([C@H]1N(CCC1)C([C@@H](N)CCCCNC(=O)OC(C)(C)C)=O)=O | C20H37N3O5
reactant | E-ethyl-3-benzoyl-acrylate | 22 mmoles, 4.48 g | C(C)OC(\C=C\C(C1=CC=CC=C1)=O)=O | C12H12O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
product | Nα -[1(S)-ethoxycarbonyl-3-phenyl-3-oxo-propyl]-Nε -t-butoxycarbonyl-(S)-lysyl-(S)-proline-t-butylester | C(C)(C)(C)OC([C@H]1N(CCC1)C([C@@H](N[C@@H](CC(=O)C1=CC=CC=C1)C(=O)OCC)CCCCNC(=O)OC(C)(C)C)=O)=O | C32H49N3O8
